US05273975
Sodium hydroxide solution (10 mL of 4.0 N, 0.04 mol) was slowly added to ethyl 2,3,6,7-tetrahydro-3-oxo-2-((1-oxopropyl)amino)-1H,5H-benzo(ij)quinolizine-2-carboxylate (3.33 g, 0.010 mol) in methanol (50 mL). After stirring at room temperature for 30 minutes, the solvent was removed under reduced pressure. The resulting solid was dissolved in water (20 mL) and methanol (trace), neutralized with 4N HCl (10 mL, 0.04 mol), cooled to -10° C., and the precipitate was filtered off and air dried to give 2.86 g of 2,3,6,7-tetrahydro-3-oxo-2-((1-oxopropyl)amino)-1H,5H-benzo(ij)quinolizine-2-carboxylic acid. This was refluxed in ethanol for 20 minutes to effect decarboxylation. The ethanol was removed under reduced pressure and the solid was crystallized from ethyl acetate:hexane to give 1.85 g of N-(2,3,6,7-tetrahydro-3-oxo-1H,5H-benzo(ij)quinolizin-2-yl)propanamide, mp 149°-152° C. A sample was recrystallized for analysis; mp 152°- 154° C. Anal. Calcd. for C15H18N2O2 : C, 69.74; H, 7.02; N, 10.85. Found: C, 69.33; H, 7.33; N, 10.68.

reactant | Sodium hydroxide | 0.04 mol, 4.0 N, 10 mL | [OH-].[Na+]
reactant | ethyl 2,3,6,7-tetrahydro-3-oxo-2-((1-oxopropyl)amino)-1H,5H-benzo(ij)quinolizine-2-carboxylate | 0.010 mol, 3.33 g | O=C1N2CCCC3=C2C(CC1(C(=O)OCC)NC(CC)=O)=CC=C3 | C18H22N2O4
reactant | HCl | 0.04 mol, 4N, 10 mL | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
product | 2,3,6,7-tetrahydro-3-oxo-2-((1-oxopropyl)amino)-1H,5H-benzo(ij)quinolizine-2-carboxylic acid | 2.86 g | O=C1N2CCCC3=C2C(CC1(C(=O)O)NC(CC)=O)=CC=C3 | C16H18N2O4
